US08314240B2
137 mg of N-[(2S)-2-fluoropropyl]-N-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-4-methyl-1,3-thiazole-2-sulfonamide was dissolved in 1.05 mL of DMF, and 139 mg of ethyl 2-(bromomethyl)-1,3-thiazole-5-carboxylate and 102 mg of potassium carbonate were added thereto, followed by stirring at room temperature for 2 hours. To the reaction liquid was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain 154 mg of ethyl 2-{[(6-{[(2S)-2-fluoropropyl][(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}-1,3-thiazole-5-carboxylate.

reactant | N-[(2S)-2-fluoropropyl]-N-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-4-methyl-1,3-thiazole-2-sulfonamide | 137 mg | F[C@H](CN(S(=O)(=O)C=1SC=C(N1)C)C=1C=C2CCCC2=CC1O)C | C16H19FN2O3S2
reactant | ethyl 2-(bromomethyl)-1,3-thiazole-5-carboxylate | 139 mg | BrCC=1SC(=CN1)C(=O)OCC | C7H8BrNO2S
reactant | potassium carbonate | 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.05 mL | CN(C)C=O | C3H7NO
product | ethyl 2-{[(6-{[(2S)-2-fluoropropyl][(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}-1,3-thiazole-5-carboxylate | 154 mg | F[C@H](CN(C1=C(C=C2CCCC2=C1)OCC=1SC(=CN1)C(=O)OCC)S(=O)(=O)C=1SC=C(N1)C)C | C23H26FN3O5S3
